US07666898B2
2-(3-(2-amino-2-oxoacetyl)-1-(biphenyl-2-ylmethyl)-2-ethyl-1H-pyrrolo[3,2-c]pyridin-4-yloxy)acetic acid, Ily-II-10: Compound 21 (0.227 mmol) is dissolved in methanol (20 mL). To the mixture the solution of KOH (1M, 0.25 mL) is added at room temperature. After addition the mixture was stirred at room temperature for 18 h. Then solution of lithium hydroxide monohydrate (90 mg) in H2O (5 mL) is added. After another hour stirring the mixture was concentrated and the residue is redissolved in methanol (10 mL) and ethanol (10 mL). The mixture is filtered and the filtrate was acidified by hydrogen chloride in ether (1.0 M) to pH=3-4. Solvent is evaporated and the residue is washed with a mixture of dichloromethane: ether (1:1), then water (5 mL) and ether to afford 2-(3-(2-amino-2-oxoacetyl)-1-benzyl-2-ethyl-1H-pyrrolo[3,2-c]pyridin-4-yloxy)acetic acid, Ily-II-10.

reactant | 2-(3-(2-amino-2-oxoacetyl)-1-(biphenyl-2-ylmethyl)-2-ethyl-1H-pyrrolo[3,2-c]pyridin-4-yloxy)acetic acid | NC(C(=O)C1=C(N(C2=C1C(=NC=C2)OCC(=O)O)CC2=C(C=CC=C2)C2=CC=CC=C2)CC)=O | C26H23N3O5
reactant | KOH | 1M, 0.25 mL | [OH-].[K+]
reactant | lithium hydroxide monohydrate | 90 mg | O.[OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | 2-(3-(2-amino-2-oxoacetyl)-1-benzyl-2-ethyl-1H-pyrrolo[3,2-c]pyridin-4-yloxy)acetic acid | NC(C(=O)C1=C(N(C2=C1C(=NC=C2)OCC(=O)O)CC2=CC=CC=C2)CC)=O | C20H19N3O5
